US07943622B2
Step 2. Synthesis of (6-chloropyridin-2-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to tert-butyl 4-(6-chloropicolinoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate (90.5 mg, 0.209 mmol). After stirring overnight, the reaction mixture was concentrated under reduced pressure, yielding 77.3 mg (91%) of the title compound. LC-MS: RT=2.86 min, [M+H]+=333.5.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(6-chloropicolinoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | 0.209 mmol, 90.5 mg | ClC1=CC=CC(=N1)C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1 | C21H25ClN4O4
product | (6-chloropyridin-2-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride | 77.3 mg, 91% | Cl.Cl.ClC1=CC=CC(=N1)C(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C16H17ClN4O2.2ClH/c17-15-5-1-4-14(20-15)16(22)21-8-7-19-9-12(21)11-23-13-3-2-6-18-10-13;;/h1-6,10,12,19H,7-9,11H2;2*1H
